US03946038
To a 500 ml round-bottom flask equipped with condenser, thermometer and a stirrer were introduced 118 g. (1.0 mole) of 2,5-dihydrothiophene 1,1-dioxide, 200 ml. of 70% by weight aqueous ethanol and 37 g (0.5 mole) of 1,2-diaminopropane and 10 ml. of a 0.1 N sodium hydroxide solution. The reaction mixture was heated at 85°C for 20 hours. The solvent was then removed under a reduced pressure. The product, N,N'-bis(1,1-dioxotetrahydro-3-thienyl)-1,2-diaminopropane was obtained as a viscous liquid. The infrared spectrum of this product was superimposable with that of Example 3. This product also evaluated in high resiliency, flexible polyurethane foam (see Example 19).

reactant | 2,5-dihydrothiophene 1,1-dioxide | 1.0 mole | S1(CC=CC1)(=O)=O | C4H6O2S
reactant | 1,2-diaminopropane | 0.5 mole, 37 g | NCC(C)N | C3H10N2
reactant | sodium hydroxide | 0.1 N | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | N,N'-bis(1,1-dioxotetrahydro-3-thienyl)-1,2-diaminopropane | O=S1(CC(CC1)NCC(C)NC1CS(CC1)(=O)=O)=O | C11H22N2O4S2
